US04335127
A mixture of 6.7 parts of methyl 2-isothiocyanatobenzoate, 8 parts of [1-(2-amino-1-methylethyl)-4-piperidinyl](4-fluorophenyl)methanone and 108 parts of tetrahydrofuran is stirred overnight at room temperature. The reaction mixture is evaporated. The residue is purified twice by column-chromatography over silica gel using first a mixture of trichloromethane and methanol (90:10 by volume) and then a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized twice from 2-propanol, yielding 1.6 parts (13%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone; mp. 160.6° C.

reactant | methyl 2-isothiocyanatobenzoate | N(=C=S)C1=C(C(=O)OC)C=CC=C1 | C9H7NO2S
reactant | [1-(2-amino-1-methylethyl)-4-piperidinyl](4-fluorophenyl)methanone | NCC(C)N1CCC(CC1)C(=O)C1=CC=C(C=C1)F | C15H21FN2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone | 13% | FC1=CC=C(C(=O)C2CCN(CC2)C(CN2C(NC3=CC=CC=C3C2=O)=S)C)C=C1 | C23H24FN3O2S
